US04186135
190 g of thionyl chloride and 153 g of 7-dimethylsulfamoyl-1,4-benzodioxane-5-carboxylic acid were introduced into a balloon flask provided with a condenser. The mixture was heated and then the excess thionyl chloride was distilled off. 163 g of 7-dimethylsulfamoyl-1,4-benzodioxane-5-carbonyl chloride were obtained (M.P.: 160°-162° C.; yield: 100%).

reactant | thionyl chloride | 190 g | S(=O)(Cl)Cl | Cl2OS
reactant | 7-dimethylsulfamoyl-1,4-benzodioxane-5-carboxylic acid | 153 g | CN(S(=O)(=O)C=1C=C(C2=C(OCCO2)C1)C(=O)O)C | C11H13NO6S
product | 7-dimethylsulfamoyl-1,4-benzodioxane-5-carbonyl chloride | 163 g, yield: 100% | CN(S(=O)(=O)C=1C=C(C2=C(OCCO2)C1)C(=O)Cl)C | C11H12ClNO5S
